US09145441B2
Compound 106e. (S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-difluoromethoxy-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
A cooled (0° C.) solution of (S)-1-((S)-2-tert-butoxycarbonylamino-3-difluoromethoxy-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (143 mg, 0.287 mmol) in dichloromethane (5 mL) was treated with trimethylsilyl trifluoromethanesulfonate (72 μL, 0.431 mmol). After stirring at 0° C. for 30 minutes the reaction mixture was treated with N,N-diisopropylethylamine (0.2 mL, 1.15 mmol) and the volatiles were removed in vacuo to provide a brown solid which was then dissolved in anhydrous acetonitrile (5 mL) and this mixture was subsequently treated with N-(tert-butoxycarbonyl)-L-valine (75 mg, 0.344 mmol), 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate (153 mg, 0.402 mmol) and N,N-diisopropylethylamine. After stirring at room temperature for 16 h, the volatiles were removed in vacuo and the residue was partitioned between ethyl acetate and water. The organics were dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography eluting with a stepwise gradient of iso-hexanes/ethyl acetate 1:0 to 1:1 to provide the title compound (105 mg, 61%) as a pale yellow gum and as a complex mixture of rotamers. LCMS (m/z) 597.0, 599.0 [M+H], Tr=3.18 min.

reactant | (S)-1-((S)-2-tert-butoxycarbonylamino-3-difluoromethoxy-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.287 mmol, 143 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COC(F)F)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C16H24Cl3F2N3O6
reactant | trimethylsilyl trifluoromethanesulfonate | 0.431 mmol, 72 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N,N-diisopropylethylamine | 1.15 mmol, 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(tert-butoxycarbonyl)-L-valine | 0.344 mmol, 75 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate | 0.402 mmol, 153 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-3-difluoromethoxy-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 105 mg, 61% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COC(F)F)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C21H33Cl3F2N4O7
